US04833203
preparation of acrylate-isoprene-base graft copolymer
After completion of the reaction, the obtained latex was coagulated by introduction into a 0.05% by weight aqueous solution of aluminum sulfate. At the time of coagulation, to the aqueous solution of aluminum sulfate was added 0.5 parts by weight of a hindered phenol antioxidant, Irganox 1076 (trade name, produced by Ciba-Geigy AG), based on the amount of the polymer.

reactant | aluminum sulfate | S(=O)(=O)([O-])[O-].[Al+3].S(=O)(=O)([O-])[O-].S(=O)(=O)([O-])[O-].[Al+3]
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | Irganox 1076 | CCCCCCCCCCCCCCCCCCOC(=O)CCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C35H62O3
product | acrylate isoprene | C(C=C)(=O)[O-].C=CC(C)=C | InChI=1S/C5H8.C3H4O2/c1-4-5(2)3;1-2-3(4)5/h4H,1-2H2,3H3;2H,1H2,(H,4,5)/p-1
